US08053431B2
A solution of 1-(2-methylsulfanylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester (3.0 g. 10.7 mmoles) in methanol (30 mL) was cooled to 0° C. and to this was added a solution of oxone (4.88 g, 7.94 mmoles) in water. The solution was stirred at the ambient temperature for 12 h. It was quenched with 5% sodium bicarbonate solution and extracted with EtOAc. Removal of solvent gave 2.0 g (60%) of 1-(2-methane-sulfonylmethoxy-ethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester. MS-ESI m/z 313(M+1): 1H NMR (300 MHz, DMSO-d6) δ 2.9 (s, 3H), 4.0 (s, 3H), 4.25 (t, 2H), 4.65 (t, 2H), 4.75 (s, 2H), 7.85 (d, 2H), 8.0 (dd, 1H), 8.35 (s, 1H), 8.5 (s, 1H)

reactant | 1-(2-methylsulfanylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 10.7 mmoles, 3.0 g | COC(=O)C1=CC2=C(N(C=N2)CCOCSC)C=C1 | C13H16N2O3S
reactant | oxone | 7.94 mmoles, 4.88 g | OOS(=O)[O-].[K+]
reactant | methanol | 30 mL | CO | CH4O
solvent | water | O | H2O
product | 1-(2-methane-sulfonylmethoxy-ethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 2.0 g, 60% | COC(=O)C1=CC2=C(N(C=N2)CCOCS(=O)(=O)C)C=C1 | C13H16N2O5S
